US05344843
As in Example 19, 4-[2-[4'-fluoro-3-(1-methylethyl)[1,1'-biphenyl]-2-yloxy]ethoxy]-alpha-oxobenzeneacetic acid methyl ester (0.186 g) in a mixture of methanol (2 mL) and tetrahydrofuran (1 mL) was treated with 1N potassium hydroxide (0.52 mL). The usual work up gave 0.17 g of a solid, which after crystallization from diethyl ether-hexane afforded 0.12 g of 4-[2-[4'-fluoro-3-(1-methylethyl)[1,1'-biphenyl]-2-yloxy]ethoxy]-alpha-oxobenzeneacetic acid, mp 123°-125° C.

reactant | 4-[2-[4'-fluoro-3-(1-methylethyl)[1,1'-biphenyl]-2-yloxy]ethoxy]-alpha-oxobenzeneacetic acid methyl ester | 0.186 g | COC(C(C1=CC=C(C=C1)OCCOC1=C(C=CC=C1C(C)C)C1=CC=C(C=C1)F)=O)=O | C26H25FO5
reactant | potassium hydroxide | 1N, 0.52 mL | [OH-].[K+]
solvent | methanol | 2 mL | CO | CH4O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 4-[2-[4'-fluoro-3-(1-methylethyl)[1,1'-biphenyl]-2-yloxy]ethoxy]-alpha-oxobenzeneacetic acid | 0.12 g | FC1=CC=C(C=C1)C1=C(C(=CC=C1)C(C)C)OCCOC1=CC=C(C=C1)C(C(=O)O)=O | C25H23FO5
